US07696210B2
To a mixture of 2-(4-tert-Butyl-phenyl)-4-[4-(3-fluoro-4-nitro-benzyl)-piperazin-1-yl]-1H-benzoimidazole (75 mg, 0.15 mMol) in dimethylformamide (2 mL) under nitrogen was added 3-(Aminomethyl) pyridine (0.078 mL, 0.77 mMol) and the resulting solution stirred overnight at room temperature. Upon arrival the reaction mixture was diluted with ethyl acetate (50 mL) and washed three times with water (50 mL) followed by brine (50 mL). The organics were dried with magnesium sulfate, filtered, and evaporated to dryness. Purification by flash column chromatography on silica gel and 5% methanol in dichloromethane as eluant yielded 50 mg of (5-{4-[2-(4-tert-Butyl-phenyl)-1H-benzoimidazol -4-yl]-piperazin-1-ylmethyl}-2-nitro-phenyl)-pyridin-3-ylmethyl-amine as a yellow-orange solid (56% yield). 1H NMR (CDCl3): δ=9.24 (s, 1H), 8.66 (s, 1H), 8.55 (m, 1H), 8.43 (m, 1H), 8.16 (d, 1H, J=7.5 Hz), 8.03 (m, 1H), 7.93 (d, 2H, J=7.5 Hz), 7.69 (d, 1H, J=6.0 Hz), 7.49 (d, 2H, J=7.5 Hz), 7.14 (m, 1H), 7.04 (d, 1H, J=6.0 Hz), 6.87 (s, 1H), 6.73 (m, 1H), 6.59 (d, 1H, J=6.0 Hz), 4.60 (m, 2H), 3.55 (m, 6H), 2.68 (m, 4H), 1.34 (s, 9H). LC/MS (Method A), rt=1.05 mins., purity=98.5%, calculated mass=575, [M+H]+=576, [M−H]−=574.

reactant | 2-(4-tert-Butyl-phenyl)-4-[4-(3-fluoro-4-nitro-benzyl)-piperazin-1-yl]-1H-benzoimidazole | 0.15 mMol, 75 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2N2CCN(CC2)CC2=CC(=C(C=C2)[N+](=O)[O-])F | C28H30FN5O2
reactant | 3-(Aminomethyl) pyridine | 0.77 mMol, 0.078 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (5-{4-[2-(4-tert-Butyl-phenyl)-1H-benzoimidazol -4-yl]-piperazin-1-ylmethyl}-2-nitro-phenyl)-pyridin-3-ylmethyl-amine | 50 mg, 56% yield | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2N2CCN(CC2)CC=2C=CC(=C(C2)NCC=2C=NC=CC2)[N+](=O)[O-] | C34H37N7O2
